US09260408B2
3-Chloro-pyridine-2-carboxylic acid [5-(4-oxo-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-8-yl)-pyridin-3-ylmethyl]-amide
In analogy to the procedure described for the preparation of example 45, 8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydro-1H-pyrrolo[3,2,1-ij]quinolin-4(2H)-one has been coupled to N-((5-bromopyridin-3-yl)methyl)-3-chloropicolinamide (intermediate A-56) to give the title compound as off-white solid. MS: 419.3 (M+H+).

reactant | 8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydro-1H-pyrrolo[3,2,1-ij]quinolin-4(2H)-one | CC1(OB(OC1(C)C)C=1C=C2CCC(N3C2=C(C1)CC3)=O)C | C17H22BNO3
reactant | N-((5-bromopyridin-3-yl)methyl)-3-chloropicolinamide | BrC=1C=C(C=NC1)CNC(C1=NC=CC=C1Cl)=O | C12H9BrClN3O
product | 3-Chloro-pyridine-2-carboxylic acid [5-(4-oxo-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-8-yl)-pyridin-3-ylmethyl]-amide | O=C1N2C3=C(C=C(C=C3CC1)C=1C=C(C=NC1)CNC(=O)C1=NC=CC=C1Cl)CC2 | C23H19ClN4O2
